US04711898
Ethyl p-isopropylbenzoylacetate
Sodium hydride (2.4 grams) and 4.5 grams of dimethyl carbonate are suspended in 150 ml of ether. 8.1 grams of p-isopropylacetophenone is gradually dropped thereinto under heating to reflux, then a small amount of ethanol is added thereto, heated to reflux for one hour, cooled, and the reaction is stopped by the addition of 20 ml of ethanol. The mixture is poured into ice water and extracted with ether. The ether extracts are combined, washed with water, dried with anhydrous magnesium sulfate and ether is evaporated therefrom. The resulting oil is purified by distillting in vacuo to give 6.5 grams of colorless oily product, b.p. 80° C./5 mmHg.

reactant | Sodium hydride | 2.4 grams | [H-].[Na+]
reactant | dimethyl carbonate | 4.5 grams | C(OC)(OC)=O | C3H6O3
reactant | p-isopropylacetophenone | 8.1 grams | C(C)(C)C1=CC=C(C=C1)C(C)=O | C11H14O
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 20 ml | C(C)O | C2H6O
solvent | ether | 150 ml | CCOCC | C4H10O
product | Ethyl p-isopropylbenzoylacetate | 6.5 grams | C(C)(C)C1=CC=C(C(=O)CC(=O)OCC)C=C1 | C14H18O3
